US08309580B2
(4) 4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]benzoic acid
To a mixture of 3-[chloro(cyclohexyl)methyl]-2-methyl-5-[4-(trifluoromethyl)phenyl]thiophene (1.27 g) synthesized above, methyl 4-aminobenzoate (1.03 g), sodium iodide (1.02 g) and N,N-dimethylacetamide (25 mL) was added sodium carbonate (721 mg), and the mixture was stirred overnight at 100° C. under an argon atmosphere. 1N Hydrochloric acid was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane) to give a pale-yellow oil. To a mixture of the obtained oil, tetrahydrofuran (20 mL) and ethanol (20 mL) was added 1N aqueous sodium hydroxide solution (20 mL), and the mixture was stirred with heated under reflux for 4 hr, and concentrated under reduced pressure. The residue was dissolved in water (40 mL), 1N hydrochloric acid (20 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (1.15 g, 71%) as a white solid.

reactant | 3-[chloro(cyclohexyl)methyl]-2-methyl-5-[4-(trifluoromethyl)phenyl]thiophene | 1.27 g | ClC(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)C1CCCCC1 | C19H20ClF3S
reactant | methyl 4-aminobenzoate | 1.03 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | sodium iodide | 1.02 g | [I-].[Na+]
reactant | sodium carbonate | 721 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
product | 4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]benzoic acid | 1.15 g, 71% | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)NC1=CC=C(C(=O)O)C=C1 | C26H26F3NO2S
